US05532247
2,3-Dihydro-2-oxo-1-phenyl-3-(4-pyrimidinylmethyl)-1H-indole-3-butanoic acid ethyl ester
By substituting 2,3-dihydro-2-oxo-1-phenyl-3-(4-pyrimidinylmethyl)-1H-indole and ethyl 4-bromobutyrate in Example 1, the desired product was obtained in 55% yield as an oil; NMR(CDCl3TMS) δ1.22 (t, 3H, J=7 Hz); 1.42 (m, 1H); 1.53 (m, 1H); 2.06 (m, 1H); 2.25 (m, 3H); 3.25 (d, 1H, J=14 Hz); 3.55 (d, 1H, J=14 Hz); 4.09 (q, 2H, J=7 Hz); 6.63 (d, 1H, J=8 Hz); 6.98 (m, 1H); 7.07 (m, 2H); 7.26 (m, 3H); 7.40 (m, 1H); 7.50 (m, 2H); 8.42 (d, 1H, J=5 Hz); 8.90 (s, 1H). IR(KBr): 1728, 1583, 1501, 1481, 1466, 1376, 1326, 1182, 1157, 758, 700 cm-1 ; mass spec m/e 416 (M+1); high resolution mass spec m/e calcd 416.197417, m/e found 416.196591 (M+H).

reactant | 2,3-dihydro-2-oxo-1-phenyl-3-(4-pyrimidinylmethyl)-1H-indole | O=C1N(C2=CC=CC=C2C1CC1=NC=NC=C1)C1=CC=CC=C1 | C19H15N3O
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
product | 2,3-Dihydro-2-oxo-1-phenyl-3-(4-pyrimidinylmethyl)-1H-indole-3-butanoic acid ethyl ester | 55% yield | C(C)OC(CCCC1(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)CC1=NC=NC=C1)=O | C25H25N3O3
